US07858623B2
Step 2: 1-methyl-3-oxo-2-phenyl-5-(pyridin-4-yl)-2,3-dihydro-1H-pyrazole-4-carbaldehyde.
To a 25 ml round-bottom flask with stirbar was added N,N-dimethylformamide (10.0 ml, 130 mmol). The flask was cooled in an ice water bath, and phosphorous oxychloride (4.2 ml, 45 mmol) was added. The reaction was warmed to room temperature and stirred under nitrogen. After 50 minutes, this was transferred, first via syringe and then pipette, to a solution of 1-methyl-2-phenyl-5-(pyridin-4-yl)-1,2-dihydropyrazol-3-one (3.31 g, 13 mmol) in DMF (18 ml). The flask was placed in a preheated oil bath (120 C), stirred for 12 minutes, and then cooled to room temperature. The reaction was poured into a aqueous solution of 5 N NaOH (40 ml) and diluted with ice water (˜75 ml). More ice and water were added. The aqueous phase was extracted with chloroform and the organic extracts were dried over sodium sulfate, filtered, and concentrated. DMF present, so the crude material was diluted with chloroform and washed with water. The aqueous extractions were extracted with chloroform, and the organic layers were combined, dried over sodium sulfate, filtered, and concentrated to give the crude product. MS (ESI pos. ion) m/z: 280 (MH+). Calc'd exact mass for C16H13N3O2: 279. Material taken to next step without further purification.

reactant | phosphorous oxychloride | 45 mmol, 4.2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-methyl-2-phenyl-5-(pyridin-4-yl)-1,2-dihydropyrazol-3-one | 13 mmol, 3.31 g | CN1N(C(C=C1C1=CC=NC=C1)=O)C1=CC=CC=C1 | C15H13N3O
reactant | NaOH | 5 N, 40 ml | [OH-].[Na+]
reactant | water | O | H2O
reactant | DMF | 18 ml | CN(C)C=O | C3H7NO
reactant | N,N-dimethylformamide | 130 mmol, 10.0 ml | CN(C=O)C | C3H7NO
product | 1-methyl-3-oxo-2-phenyl-5-(pyridin-4-yl)-2,3-dihydro-1H-pyrazole-4-carbaldehyde | CN1N(C(C(=C1C1=CC=NC=C1)C=O)=O)C1=CC=CC=C1 | C16H13N3O2
